US04368325
Thiourea (377 mg) and sodium acetate (406 mg) were added to a solution of 2-methoxyimino-3-oxo-4,4-dibromobutyric acid (syn isomer, 500 mg) in tetrahydrofuran (5 ml) and water (5 ml), and the solution was stirred at 30° C. for 4 hours. The solution was adjusted to pH 3.5, concentrated under reduced pressure and allowed to stand at 0° C. overnight. The precipitates were collected by filtration, washed with water and dried to give 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 135 mg).

reactant | Thiourea | 377 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 406 mg | C(C)(=O)[O-].[Na+]
reactant | 2-methoxyimino-3-oxo-4,4-dibromobutyric acid | 500 mg | CON=C(C(=O)O)C(C(Br)Br)=O | C5H5Br2NO4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid | 135 mg | NC=1SC=C(N1)C(C(=O)O)=NOC | C6H7N3O3S
